US08252797B2
4-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-phenoxymethyl]-pyrrolidine-2-carboxylic acid methyl ester
To a solution of 4-{4-[2,6-Dioxo-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-phenoxymethyl}-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (100 mg) in methanol (3 ml), methanolic HCl (3 N, 0.5 ml) was added at 0° C., reaction mixture was stirred at room temperature for 2 hrs. The reaction mixture was evaporated and the residue obtained was purified by column chromatography to offer 4-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-phenoxymethyl]-pyrrolidine-2-carboxylic acid methyl ester as a yellow solid (50 mg, 74%).

reactant | 4-{4-[2,6-Dioxo-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-phenoxymethyl}-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 100 mg | COC(=O)C1N(CC(C1)COC1=CC=C(C=C1)C1=NC=2N(C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)=O)CCC)C(=O)OC(C)(C)C | C35H53N5O8Si
solvent | methanol | 3 ml | CO | CH4O
solvent | HCl | 3 N, 0.5 ml | Cl | ClH
product | 4-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-phenoxymethyl]-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)C1NCC(C1)COC1=CC=C(C=C1)C1=NC=2N(C(N(C(C2N1)=O)CCC)=O)CCC | C24H31N5O5
